* C:\Users\fgewi\Documents\Projects\Discrete-Opamp\Simulations\v1\discrete_opamp_v1.asc
V1 5V 0 20
Q§driv N003 N001 5V 0 PNP
V§test In+ 0 0
R2 Vout In- 10k
R3 NC_01 0 10k
R4 5V N002 22k
R5 N004 0 10k
R6 5V N001 68
Q§driv1 Vout N003 N001 0 PNP
Q§driv2 N004 In+ N002 0 PNP
Q§driv3 0 In- N002 0 PNP
R7 N003 0 22k
Q2 Vout N004 0 0 NPN
C1 Vout N004 22p
.model NPN NPN
.model PNP PNP
.lib C:\Users\fgewi\AppData\Local\LTspice\lib\cmp\standard.bjt
.dc test 1 5 00.1
* https://sound-au.com/project07.htm
.backanno
.end
